US07001897B2
To a solution of (3S)-3-acetoxy-1-(p-nitrobenzyloxycarbonyl)-pyrrolidine (5.51 g, 17.8 mmol) (obtained as described in Reference Example 53(1)) in methanol (200 ml) was added a catalytic amount of sodium methoxide, and the mixture was stirred at room temperature for 4.5 hours. After checking the completion of the reaction, a solution of 4N hydrogen chloride in 1,4-dioxane (4.3 ml) was added thereto to neutralize the reaction mixture. The resulting reaction mixture was partitioned between ethyl acetate and saturated aqueous sodium hydrogencarbonate solution. The organic layer was washed with saturated aqueous sodium chloride solution, dried over-anhydrous sodium sulfate, filtered and concentrated under reduced pressure. The obtained residue was purified by chromatography on a silica gel column using n-hexane:ethyl acetate (1:2)→ethyl acetate as the eluant to afford (3S)-3-hydroxy-1-(p-nitrobenzyloxycarbonyl)pyrrolidine (4.00 g, yield 84%) as white crystals.

reactant | (3S)-3-acetoxy-1-(p-nitrobenzyloxycarbonyl)-pyrrolidine | 17.8 mmol, 5.51 g | C(C)(=O)O[C@@H]1CN(CC1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C14H16N2O6
reactant | sodium methoxide | C[O-].[Na+]
reactant | hydrogen chloride | 4N | Cl | ClH
solvent | methanol | 200 ml | CO | CH4O
solvent | 1,4-dioxane | 4.3 ml | O1CCOCC1 | C4H8O2
product | (3S)-3-hydroxy-1-(p-nitrobenzyloxycarbonyl)pyrrolidine | 4.00 g, yield 84% | O[C@@H]1CN(CC1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C12H14N2O5
